US06066641
b) 1-(4-Chlorobenzyl)-3-cyanoacetyl-urea
68.7 g of 98% cyanoacetic acid and 155 ml of acetic anhydride were kept at 65° C. for 30 minutes. 4-chlorobenzylurea (132.9 g) was added in portions over 10 minutes. After 2 hrs. at 70-75° C., further acetic anhydride (25 ml) was added. After a further 15 minutes, 90 ml of toluene was added, cooled to room temperature, the solid collected and washed with toluene to give the title compound (155.60 g) as a white solid mp 203-6° C.

reactant | cyanoacetic acid | 68.7 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 155 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-chlorobenzylurea | 132.9 g | ClC1=CC=C(CNC(=O)N)C=C1 | C8H9ClN2O
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chlorobenzyl)-3-cyanoacetyl-urea | 155.60 g | ClC1=CC=C(CNC(=O)NC(CC#N)=O)C=C1 | C11H10ClN3O2
